US04851425
1-(4-Bromophenyl)-4,5,6,7-tetrahydro-1H-indazole-3-methanol (Formula VII, R1 =4-bromophenyl, w=2) Refer to Chart A
Lithium aluminum hydride (1.52 g) in THF (100 ml) was treated with 1-(4-bromophenyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid ethyl ester (6.98 g) and reacted at ambient temperature for 2 hours. Additional reagent (1.52 g) was added and the reaction was continued for one hour to complete the conversion. Excess reagent was quenched, the mixture was filtered, and the filtrate was evaporated to yield crude title compound (548 g). Crystallization from acetonitrile gave pure title compound (4.32 g, m.p. 126°-127° C.). The filtrate residue contained equal proportions of title compound and the des-bromo derivative.

reactant | Lithium aluminum hydride | 1.52 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(4-bromophenyl)-4,5,6,7-tetrahydro-1H-indazole-3-carboxylic acid ethyl ester | 6.98 g | C(C)OC(=O)C1=NN(C=2CCCCC12)C1=CC=C(C=C1)Br | C16H17BrN2O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(4-Bromophenyl)-4,5,6,7-tetrahydro-1H-indazole-3-methanol | 4.32 g | BrC1=CC=C(C=C1)N1N=C(C=2CCCCC12)CO | C14H15BrN2O
